*PADS-PCB*
*PART*
H1 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H2 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H3 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H4 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H5 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H6 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H7 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H8 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H9 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H10 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H11 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H12 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H13 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H14 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H15 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H16 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H17 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H18 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H19 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H20 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H21 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H22 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H23 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H24 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H25 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H26 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H27 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H28 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H29 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H30 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H31 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H32 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H33 UU //DIP-1X5P-2.54MM-UU RINGLINKUP
H34 UU //DIP-1X5P-2.54MM-UU RINGLINKUP

*NET*
*SIGNAL* H1_1
H1.5 H1.1 H1.2 H1.3 H1.4 
*SIGNAL* H2_1
H2.1 H2.5 H2.2 H2.3 H2.4 
*SIGNAL* H3_1
H3.5 H3.1 H3.2 H3.3 H3.4 
*SIGNAL* H4_1
H4.1 H4.5 H4.2 H4.3 H4.4 
*SIGNAL* H5_1
H5.5 H5.1 H5.2 H5.3 H5.4 
*SIGNAL* H6_1
H6.1 H6.5 H6.2 H6.3 H6.4 
*SIGNAL* H7_1
H7.5 H7.1 H7.2 H7.3 H7.4 
*SIGNAL* H8_1
H8.1 H8.5 H8.2 H8.3 H8.4 
*SIGNAL* H9_1
H9.1 H9.5 H9.2 H9.3 H9.4 
*SIGNAL* H10_1
H10.5 H10.1 H10.2 H10.3 H10.4 
*SIGNAL* H11_1
H11.1 H11.5 H11.2 H11.3 H11.4 
*SIGNAL* H12_1
H12.5 H12.1 H12.2 H12.3 H12.4 
*SIGNAL* H13_1
H13.5 H13.1 H13.2 H13.3 H13.4 
*SIGNAL* H14_1
H14.1 H14.5 H14.2 H14.3 H14.4 
*SIGNAL* H15_1
H15.5 H15.1 H15.2 H15.3 H15.4 
*SIGNAL* H16_1
H16.1 H16.5 H16.2 H16.3 H16.4 
*SIGNAL* H17_1
H17.1 H17.5 H17.2 H17.3 H17.4 
*SIGNAL* H18_1
H18.1 H18.5 H18.2 H18.3 H18.4 
*SIGNAL* H19_1
H19.5 H19.1 H19.2 H19.3 H19.4 
*SIGNAL* H20_1
H20.1 H20.5 H20.2 H20.3 H20.4 
*SIGNAL* H21_1
H21.5 H21.1 H21.2 H21.3 H21.4 
*SIGNAL* H22_1
H22.1 H22.5 H22.2 H22.3 H22.4 
*SIGNAL* H23_1
H23.5 H23.1 H23.2 H23.3 H23.4 
*SIGNAL* H24_1
H24.1 H24.5 H24.2 H24.3 H24.4 
*SIGNAL* H25_1
H25.5 H25.1 H25.2 H25.3 H25.4 
*SIGNAL* H26_1
H26.1 H26.5 H26.2 H26.3 H26.4 
*SIGNAL* H27_1
H27.5 H27.1 H27.2 H27.3 H27.4 
*SIGNAL* H28_1
H28.1 H28.5 H28.2 H28.3 H28.4 
*SIGNAL* H29_1
H29.5 H29.1 H29.2 H29.3 H29.4 
*SIGNAL* H30_1
H30.5 H30.1 H30.2 H30.3 H30.4 
*SIGNAL* H31_1
H31.5 H31.1 H31.2 H31.3 H31.4 
*SIGNAL* H32_1
H32.1 H32.5 H32.2 H32.3 H32.4 
*SIGNAL* H33_1
H33.5 H33.1 H33.2 H33.3 H33.4 
*SIGNAL* H34_1
H34.1 H34.5 H34.2 H34.3 H34.4 
*END*